US04804400
A mixture of 46.5 g of 3-amino-4-fluorobenzoic acid and 37.8 g of dimethylmaleic anhydride in 200 ml of glacial acetic acid is stirred for 12 hours at an oil bath temperature of 130°-40°. After cooling, the mixture is poured onto ice-water, and the resulting precipitate is filtered with suction, washed with water and dried. Recrystallisation from ethanol/water yields 70.3 g of N-(2-fluoro-5-carboxyphenyl)-2,3-dimethylmaleic acid imide which melts at 238°-240°.

reactant | 3-amino-4-fluorobenzoic acid | 46.5 g | NC=1C=C(C(=O)O)C=CC1F | C7H6FNO2
reactant | dimethylmaleic anhydride | 37.8 g | C/C/1=C(/C(=O)OC1=O)\C | C6H6O3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | N-(2-fluoro-5-carboxyphenyl)-2,3-dimethylmaleic acid imide | 70.3 g | FC1=C(C=C(C=C1)C(=O)O)N1C(C(=C(C1=O)C)C)=O | C13H10FNO4
